GF180MCU pmos_3p3 Id-Vds, W=1um L=0.28um, 125C
* Rendered from models/ngspice/testing/regression/mos_iv_vgs/device_netlists_Id
* (GlobalFoundries PDK, Apache-2.0). The upstream `.control` block is replaced
* by a single-source `.dc` card at one gate bias. Upstream sweeps six gate
* biases in one two-source run; splitting them makes each case a single I-V
* curve, so a failure names one bias condition instead of a family and the
* comparison cannot depend on how a simulator orders a nested sweep.
Vds D_tn 0 dc -3.3
Vgs G_tn 0 -1.3
.temp 125
.options tnom=125
xmn1 D_tn G_tn 0 0 pmos_3p3 W = 1u L = 0.28u ad=0.25p pd=2.5u as=0.25p ps=2.5u
.dc Vds 0 -3.3 -0.05
.include "../../models/design.ngspice"
.lib "../../models/sm141064.ngspice" typical
* Statistical mismatch is switched off below so the curve is reproducible:
* the PDK wrappers otherwise apply a random per-instance delvto.
.param sw_stat_mismatch=0
.param sw_stat_global=0
.end
